US06069157
4-(3-Bromofuran-2-yl)-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl) pyrazole
To a stirred solution of 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(4,4-diethoxy-1-hydroxybut-2-ynyl)pyrazole (0.04 g) in dioxane (1 ml) was added dropwise at room temperature hydrobromic acid (0.04 g). After 30 minutes the reaction mixture was poured into water (10 ml) and ether (10 ml). The organic layer was separated, dried (MgSO4) and evaporated. Recrystallisation from ether/hexane gave the title compound as a pale brown solid, m.p. 99-101° C.

reactant | 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(4,4-diethoxy-1-hydroxybut-2-ynyl)pyrazole | 0.04 g | C(#N)C1=NN(C=C1C(C#CC(OCC)OCC)O)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C19H16Cl2F3N3O3
reactant | hydrobromic acid | 0.04 g | Br | BrH
reactant | water | 10 ml | O | H2O
reactant | ether | 10 ml | CCOCC | C4H10O
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | 4-(3-Bromofuran-2-yl)-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl) pyrazole | BrC1=C(OC=C1)C=1C(=NN(C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N | C15H5BrCl2F3N3O
